US04971959
Methyl 5-(3-cyclopentoxy-4-methoxyphenyl)-n-pentanoate
To a solution of 0.20 g (0.66 mmol) of methyl 5-(3-cyclopentoxy-4-methoxyphenyl)-2,4-E,E-pentadienoate 75 mL of methanol is added 0.05 g of 5% palladium on carbon black. The suspension is shaken under a 50 psi atmosphere of hydrogen for 52 minutes after which time the excess gas is dissociated and the solution is filtered over Celite 545. The mixture is concentrated to dryness followed by liquid chromatography of the crude product over 100 g of silica gel eluting with 7.5% ethyl acetate in hexane. The final product is dried in vacuo and is found to be as analytically pure as an oil.

reactant | methyl 5-(3-cyclopentoxy-4-methoxyphenyl)-2,4-E,E-pentadienoate | 0.66 mmol, 75 mL, 0.20 g | C1(CCCC1)OC=1C=C(C=CC1OC)/C=C/C=C/C(=O)OC | C18H22O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
solvent | methanol | CO | CH4O
product | Methyl 5-(3-cyclopentoxy-4-methoxyphenyl)-n-pentanoate | C1(CCCC1)OC=1C=C(C=CC1OC)CCCCC(=O)OC | C18H26O4
